US06706751B2
290 mg (1 mmol) 5-Hydroxy-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester in 5 ml acetone were treated with 320 mg (3 mmol) K2CO3 (powdered) and 0.23 ml (2 mmol) 1,4-dibromobutane. The suspension was stirred at 50° C. for 4 h, cooled to RT, and was diluted with ether and water. The aqueous phase was extracted with ether, the organic phases were washed with water and dried over Na2SO4. Column chromatography on silica gel with hexane/EtOAc 9:1 yielded 210 mg (49%) 5-(4-Bromo-butoxy)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester as colorless solid, MS: 423 (M, 1Br, 1Cl).

reactant | 5-Hydroxy-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 1 mmol, 290 mg | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=CC=C12)O | C15H12ClNO3
reactant | K2CO3 | 3 mmol, 320 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 2 mmol, 0.23 ml | BrCCCCBr | C4H8Br2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-(4-Bromo-butoxy)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 210 mg, 49% | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=CC=C12)OCCCCBr | C19H19BrClNO3
